* No comment
  Lcomm N002 d 623u
  D1 d N002 D
  Lg g N004 1.6n
  Rsh 0 N005 0.025
  XM1 d N004 0 EPC2022
  C1 N001 N005 600u ic=56.2799
  R0 P001 N001 0.17984
  L0 P001 N002 9.2397e-09
  V1 N003 0 PWL file="gate.csv"
  Rg g N003 100u
  cj N002 d 9.5213e-10
  .model D D
  .lib C:\Users\usr\Documents\LTspiceXVII\lib\cmp\standard.dio
  .lib device_models/EPC2022.lib
  .tran 0 310u 0 1n
  .lib gate.csv
  .backanno
  .end
             
                   
      
 
