* C:\Users\andre\Documents\Research\Automated_SPICE_Modeling\UT_Framework_3.0.1\SPICE_Files\foster_test_matlab_pulsetrain.asc
vmb1 N007 0 0
R8 Tj N001 0.10491
R9 N001 N002 0.30842
R10 N002 N003 0.22223
R11 N003 N004 0.04898
R12 N004 N005 0.004231
R13 N005 N006 0.0040239
R14 N006 N007 7.5029e-05
C8 Tj N001 0.26713
C9 N001 N002 0.02851
C10 N002 N003 0.0083275
C11 N003 N004 0.0026323
C12 N004 N005 0.0032843
C13 N005 N006 0.0012383
C14 N006 N007 7e-06
Idr 0 Tj PULSE(0 1 0 9.2692e-07 9.2692e-07 0.00069519 0.0013904)
.param Tsim =0.055615
.tran 0 {Tsim} {0.8*Tsim} uic
.backanno
.end
