* C:\Users\andre\Documents\Research\Automated_SPICE_Modeling\UT_Framework_3.0.1\SPICE_Files\test4.asc
VBUS N004 N008 600
RG Gate N007 10
LBUS N003 N002 {L_busval}
RBUS N004 N003 1.64m
L§ESL_G N006 N007 12.87n
Vpulse N006 0 PWL(0u {Voff} {Start} {Voff} {RiseT1} {Von} {PulseT} {Von} {FallT} {Voff} {offT} {Voff} {RiseT2} {Von} {OnT} {Von} {FallT2} {Voff})
XU1 Drain N005 NC_01 C4D10120A
XM1 Drain Gate 0 Fraunhofer
RSHUNT N008 0 100.8m
Ldiode N001 N005 {Ldiode}
XL1 N001 Drain UT_L
XX1 N002 N001 skin_effect

* block symbol definitions
.subckt skin_effect 1 2
L1 2 1 {fp}
L2 N001 0 {fp}
R§Damping 0 N001 {rp}
K1 L1 L2 1
.include SE.txt
.ends skin_effect

.param Start = 1u
.param Voff=-5.3
.param PulseT = RiseT1+ 20.225u - {slewshift}
.param FallT = PulseT + 2n + {slewshift}
.param OffT = FallT + 5.2729u - {slewshift}
.param RiseT2 = OffT + 2n + {slewshift}
.param OnT = RiseT2+  5.35u - {slewshift}
.param FallT2 = OnT + 2n + {slewshift}
.param Von=21.3
.param RiseT1=Start+100n
.options method=gear
.inc Cree Power C4D Packaged SPICE Model Library.lib
.inc Cree Power CPW4 Bare Die SPICE Model Library.lib
.tran 50u
.param T = 25C
.param L_busval=42n+10n
.param Ldiode = 6n
.options plotabstol 1e-12
.param slewshift = 1.5n
.inc Device_Models\Fraunhofer.lib
.inc UT_L.lib
.backanno
.end
