* Fraunhofer model
 
* Automatically generated device model
* Generated: 12-Mar-2020 16:25:27
 
.SUBCKT FRAUNHOFER D G S
 
********************************
** Current Generator Circuit **
********************************
.FUNC PAR_B(V) {TABLE(V,10,31.3737,12,81.8539,14,156.6129,16,246.786,18,234.5796,20,164.007)}
.FUNC PAR_L(V) {TABLE(V,10,-0.63395,12,-0.63899,14,-0.58123,16,-0.52358,18,-0.45165,20,-0.31524)}
.FUNC PAR_V(V) {TABLE(V,10,2.4625,12,3.3081,14,3.9231,16,4.8127,18,5.4195,20,4.7457)}
.FUNC PAR_A(V) {TABLE(V,10,0.14871,12,0.086967,14,0.059754,16,0.045507,18,0.054575,20,0.086166)}
B1 D1 S1 I = V(D1,S1)/abs(V(D1,S1))*PAR_B(V(G1,S1))*(1+PAR_L(V(G1,S1))*(1-exp(-abs(V(D1,S1))/PAR_V(V(G1,S1)))))*tanh(PAR_A(V(G1,S1))*abs(V(D1,S1)))
********************************
 
********************************
******* Body Diode Model *******
********************************
DSD S1 D1 Dbody
.MODEL Dbody D(epsilon=4.0178 Ron=0.041591 Vfwd=3.0278)
********************************
 
********************************
* Non-linear Device Capacitors *
********************************
CGS G2 S1 {kgs*1818.6151*1e-12}
RGS G1 G2 {r_gs}
CDS D2 S1 Q = kds*1e-12*TABLE(x,-1000,-1179698.2085,0,0,0.1,117.9698,0.2,233.3481,0.3,346.2638,0.4,456.8285,0.5,565.1362,0.6,671.2636,0.7,775.27,0.8,877.1971,0.9,977.0694,1,1074.8938,1.1,1170.7318,1.2,1264.7654,1.3,1357.2154,1.4,1448.2671,1.5,1538.0695,1.6,1626.7357,1.7,1714.343,1.8,1800.9325,1.9,1886.5095,2,1971.0432,2.1,2054.5154,10,7068.5295,12,8065.5295,14,8998.5295,16,9878.5295,18,10714.5295,20,11511.5295,22,12273.5295,24,13006.5295,26,13713.5295,28,14397.5295,30,15060.5295,35,16635.5295,40,18110.5295,45,19503.0295,50,20825.5295,60,23300.5295,70,25590.5295,80,27730.5295,90,29740.5295,100,31645.5295,150,40120.5295,200,47245.5295,300,59295.5295,400,69445.5295,500,78345.5295,750,97220.5295,800,100520.5295,1000,113220.5295)
RDS D1 D2 {r_ds}
CDG D3 G1 Q = kdg*1e-12*TABLE(x,-1000,-1441638.5865,0,0,0.1,144.1639,0.2,285.6672,0.3,424.1472,0.4,559.2682,0.5,690.7218,0.6,818.2265,0.7,941.5285,0.8,1060.4006,0.9,1174.6434,1,1284.0841,1.1,1388.2258,1.2,1486.0112,1.3,1576.3488,1.4,1658.522,1.5,1732.1899,1.6,1797.3866,1.7,1854.5217,1.8,1904.3799,1.9,1948.1213,2,1987.2812,2.1,2023.2742,2.2,2056.7685,2.3,2087.9904,10,2986.5777,12,3111.5777,14,3224.5777,16,3328.5777,18,3425.5777,20,3517.5777,22,3605.5777,24,3689.5777,26,3770.5777,28,3848.5777,30,3923.5777,35,4103.5777,40,4273.5777,45,4433.5777,50,4586.0777,60,4876.0777,70,5146.0777,80,5401.0777,90,5646.0777,100,5881.0777,150,6956.0777,200,7906.0777,300,9556.0777,400,11006.0777,500,12356.0777,750,15481.0777,1000,18481.0777)
RDG D1 D3 {r_dg}
********************************
 
********************************
** Parasitic Pin Inductances **
********************************
LDRAIN  D DX {1e-9*Ld} Rser=0 Rpar={r_dp} Cpar={1e-12*c_dp}
RD		DX D1 R={V(ND,0)}
ED ND 0 value={limit(V(D1,S1)/100, 1e-3, rd)}
RED ND 0 1e6
LGATE   G GX {1e-9*Lg} Rser=0 Rpar={r_gp} Cpar={1e-12*c_gp}
RG		GX G1 R={V(NG,0)}
EG NG 0 value={limit(V(D1,S1)/100, 1e-3, rg)}
REG NG 0 1e6
LSOURCE SX S {1e-9*Ls} Rser=0 Rpar={r_sp} Cpar={1e-12*c_sp}
RS		S1 SX R={V(NS,0)}
ES NS 0 value={limit(V(D1,S1)/100, 1e-3, rs)}
RES NS 0 1e6
********************************
 
********************************
**** Model Input Parameters ****
********************************
.PARAM Ld = 0.1
.PARAM r_dp = 1000000
.PARAM c_dp = 0
 
.PARAM Lg = 4.895
.PARAM r_gp = 1000000
.PARAM c_gp = 0
 
.PARAM Ls = 2.6
.PARAM r_sp = 1000000
.PARAM c_sp = 0
 
.PARAM rd = 0.0001
.PARAM rg = 0.0001
.PARAM rs = 0.0001
 
.PARAM kds = 1
.PARAM kgs = 1
.PARAM kdg = 1
 
.PARAM r_ds = 0.0001
.PARAM r_gs = 0.0001
.PARAM r_dg = 0.0001
********************************
 
********************************
***** Foster Thermal Model *****
********************************
.PARAM Tj = 25
Bheat 0 Tj I = {abs(V(D1,S1)*I(RD))}
 
RT1 Tj T1 0.10491
CT1 Tj T1 0.26713
 
RT2 T1 T2 0.30842
CT2 T1 T2 0.02851
 
RT3 T2 T3 0.22223
CT3 T2 T3 0.0083275
 
RT4 T3 T4 0.04898
CT4 T3 T4 0.0026323
 
RT5 T4 T5 0.004231
CT5 T4 T5 0.0032843
 
RT6 T5 T6 0.0040239
CT6 T5 T6 0.0012383
 
RT7 T6 T7 7.5029e-05
CT7 T6 T7 7e-06
 
Bamb 0 T7 V = {Tj}
********************************
 
.ENDS FRAUNHOFER
